US09303040B2
5-Methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-ol (10 g, 59.54 mmol) in POCl3 (100 mL) was heated to reflux for 15 minutes. After cooling, excess POCl3 was removed under vacuum. The residue was dissolved in CH2Cl2 (100 mL) and saturated NaHCO3 (400 mL) was added at 0° C. The reaction mixture was stirred for 1 hour. The aqueous phase was extracted with DCM (3×250 mL). The organic phase was combined, dried and concentrated. The residue was purified by silica gel chromatography, eluting with Hexane/ethyl acetate (4:1) to give 4-chloro-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidine (6 g, 54%). 1H NMR (CDCl3, 400 MHz) δ 8.80 (s, 1H), 4.68 (m, 1H), 4.44 (m, 1H), 4.13 (d, J=16.8 Hz, 2H), 1.68 (d, J=7.2 Hz, 3H).

reactant | 5-Methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-ol | 59.54 mmol, 10 g | CC1SCC=2N=CN=C(C21)O | C7H8N2OS
reactant | POCl3 | 100 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidine | 6 g, 54% | ClC=1C2=C(N=CN1)CSC2C | C7H7ClN2S
